* Extracted by KLayout with SG13G2 LVS runset on : 18/01/2026 23:42

.SUBCKT inv_xor VBN VBP VIN VOUT VDD VSS
M$1 VSS VIN VOUT VBN sg13_lv_nmos L=0.13u W=0.15u AS=0.1005p AD=0.1005p
+ PS=1.34u PD=1.34u
M$2 VDD VIN VOUT VBP sg13_lv_pmos L=0.13u W=0.15u AS=0.1005p AD=0.1005p
+ PS=1.34u PD=1.34u
.ENDS inv_xor
